US09085540B2
A mixture of 1-fluoro-4-nitrobenzene (418 μL), [(2S)-1-methylpiperazin-2-yl]methanol dihydrochloride (0.8 g), potassium carbonate (2.45 g), and dimethylsulfoxide (8 mL) was stirred at 120° C. for 3 hours. To the reactant were added water and ethyl acetate, followed by liquid separation. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH2 type: eluent; ethyl acetate) to obtain [(2S)-1-methyl-4-(4-nitrophenyl)piperazin-2-yl]methanol (590 mg) as a yellow solid.

reactant | 1-fluoro-4-nitrobenzene | 418 μL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | [(2S)-1-methylpiperazin-2-yl]methanol dihydrochloride | 0.8 g | Cl.Cl.CN1[C@@H](CNCC1)CO
reactant | potassium carbonate | 2.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [(2S)-1-methyl-4-(4-nitrophenyl)piperazin-2-yl]methanol | 590 mg | CN1[C@@H](CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])CO | C12H17N3O3
